US08193349B2
To a solution of trans-2-(3-benzyloxy-cyclobutyl)-propionic acid methyl ester (94 mg, 0.38 mmol) in THF (1 mL) is added 1.09M LDA in THF and hexane (1.51 mL, 1.65 mmol) at −78° C. under nitrogen, and stirred at −78° C. for 30 minutes. To the mixture, iodomethane (232 uL, 3.76 mmol) is added, and stirred at −78° C. for 30 minutes. The temperature is slowly warmed to room temperature for 3 hours. To the mixture, H2O is added and extracted with AcOEt. The organic layer is dried over MgSO4 and concentrated under reduced pressure to give trans-2-(3-benzyloxy-cyclobutyl)-2-methyl-propionic acid methyl ester (70 mg, 70%); ESI-MS m/z 263 [M+1]+, retention time 2.17 min (condition A).

reactant | trans-2-(3-benzyloxy-cyclobutyl)-propionic acid methyl ester | 0.38 mmol, 94 mg | COC(C(C)[C@@H]1C[C@H](C1)OCC1=CC=CC=C1)=O | C15H20O3
reactant | LDA | 1.09M | [Li+].CC(C)[N-]C(C)C
reactant | hexane | 1.65 mmol, 1.51 mL | CCCCCC | C6H14
reactant | iodomethane | 3.76 mmol, 232 uL | IC | CH3I
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | trans-2-(3-benzyloxy-cyclobutyl)-2-methyl-propionic acid methyl ester | 70 mg, 70% | COC(C(C)(C)[C@@H]1C[C@H](C1)OCC1=CC=CC=C1)=O | C16H22O3
